US06670379B2
A solution of (E)-3-(5-cyano-2-methoxy-phenyl)-acrylic acid (0.31 g, 1.55 mmol), triethylamine (0.2 ml, 1.55 mmol) and 2-(1H benzotriazol-1-yl)-1,1,3,3,-tetramethyluronium tetrafluoroborate (0.49 g 1.55 mmol) in dichloromethane (5 ml), is added to a solution of [1-((S)-2-amino-3-hydroxy-propyl)-piperidin-4-yl]-(4-chloro-phenyl)-methanone hydrochloride and triethylamine (0.4 ml, 3.1 mmol) in dichloromethane (5 ml), and the reaction mixture stirred at ambient temperature for 1 hour. The reaction mixture is diluted with dichloromethane (20 ml), washed successively with saturated sodium bicarbonate solution (25 ml) and brine (25 ml), then dried over magnesium sulphate. The solvent is evaporated and the crude residue purified by flash silica chromatography (methanol:dichloromethane; 5:95) to afford (E)-N-{(S)-2-[4-(4-chloro-benzoyl)-piperidin-1-yl]-1-hydroxymethyl-ethyl}-3-(5-cyano-2-methoxy-phenyl)-acrylamide. [MH]+482.2.

reactant | (E)-3-(5-cyano-2-methoxy-phenyl)-acrylic acid | 1.55 mmol, 0.31 g | C(#N)C=1C=CC(=C(C1)/C=C/C(=O)O)OC | C11H9NO3
reactant | triethylamine | 1.55 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(1H benzotriazol-1-yl)-1,1,3,3,-tetramethyluronium tetrafluoroborate | 1.55 mmol, 0.49 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | [1-((S)-2-amino-3-hydroxy-propyl)-piperidin-4-yl]-(4-chloro-phenyl)-methanone hydrochloride | Cl.N[C@@H](CN1CCC(CC1)C(=O)C1=CC=C(C=C1)Cl)CO
reactant | triethylamine | 3.1 mmol, 0.4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (E)-N-{(S)-2-[4-(4-chloro-benzoyl)-piperidin-1-yl]-1-hydroxymethyl-ethyl}-3-(5-cyano-2-methoxy-phenyl)-acrylamide | ClC1=CC=C(C(=O)C2CCN(CC2)C[C@@H](CO)NC(\C=C\C2=C(C=CC(=C2)C#N)OC)=O)C=C1 | C26H28ClN3O4
